US07781426B2
To a solution of 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzaldehyde (14.5 mg, 0.0291 mmol) in dichloroethane (300 μL) was added HNEt2 (4.6 μL, 0.0436 mmol), and NaBH(OAc)3 (9.2 mg, 0.0436 mmol). The reaction was stirred at room temperature for 18 hours and then diluted with EtOAc (10 mL) and washed with brine (5 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by PTLC (50% EtOAc/hexanes) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-[(diethylamino)methyl]-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one. Rf=0.57 (50% EtOAc/hexanes). LCMS=557.2 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.92 (s, 1H), 7.82 (s, 2H), 7.55-7.52 (m, 3H), 5.76 (d, J=8.0 Hz, 1H), 5.03 (d, J=16.1 Hz, 1H), 4.60 (d, J=16.1 Hz, 1H), 4.05-4.03 (m, 1H), 3.73 (d, J=13.5 Hz, 1H), 3.57 (d, J=13.7 Hz, 1H), 2.75-2.56 (m, 4H), 1.04 (bs, 6H), 0.80 (d, J=6.4 Hz, 3H).

reactant | 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzaldehyde | 0.0291 mmol, 14.5 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=O)C=CC(=C1)C(F)(F)F)C)(F)F | C21H14F9NO3
reactant | HNEt2 | 0.0436 mmol, 4.6 μL | N(CC)CC | C4H11N
reactant | NaBH(OAc)3 | 0.0436 mmol, 9.2 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | dichloroethane | 300 μL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-[(diethylamino)methyl]-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)CN(CC)CC)C)(F)F | C25H25F9N2O2
